US06281227B1
F. 7-Bromomethyl-1-chloro-isoquinoline
N-Bromosuccinimide (1.10 g, 6.19 mmol) and benzoyl peroxide (0.39 g, 1.13 mmol) are added to a solution of 1-chloro-7-methylisoquinoline (1 g, 5.63 mmol) in carbon tetrachloride (70 mL). The resulting mixture is heated to reflux for 6 hours then cooled to room temperature and diluted with methylene chloride. The organic layer is washed with 1N NaOH and brine, then dried over MgSO4, filtered and concentrated. The residue is purified by column chromatography eluting with a gradient of 10% EtOAc/hexanes to 25% EtOAc/hexanes to give the product (1.4 g, 5.46 mmol) as a white solid.

reactant | N-Bromosuccinimide | 6.19 mmol, 1.10 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.13 mmol, 0.39 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 1-chloro-7-methylisoquinoline | 5.63 mmol, 1 g | ClC1=NC=CC2=CC=C(C=C12)C | C10H8ClN
solvent | carbon tetrachloride | 70 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-Bromomethyl-1-chloro-isoquinoline | 5.46 mmol, 1.4 g | BrCC1=CC=C2C=CN=C(C2=C1)Cl | C10H7BrClN
